Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11]>>[C:5]([H:6])#[C:7][C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3][H:4],3.65831309929
[H:1][C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-0.3429553822599999
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],2.7728939766400003
[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13]1>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13],0.3672168188899999
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7],3.92089072998
[O:1][C@@:2]1([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-0.7014583355410001
[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.55663365003
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],2.20373878015
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.58096135058
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10].[H:11],1.80814266419
[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:9]([H:10])[H:11].[O:7][H:8]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])([O:7][H:8])[C:9]([H:10])[H:11],-2.56139041398
[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.42226942226
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],5.13637504325
[H:7].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.626561028359999
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[H:11],3.92290706849
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:3][C:4][H:5],8.881728566
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2][O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11],4.25080440318
[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[O:7],1.5463385791
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.4761932458700002
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11],3.65646646311
[C:11]([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-6.6150338501600014
[H:1][O:2][C@@:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],1.15334586857
[C:6]([H:7])#[C:8][O:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],0.59529389632
[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.24414821179
[C:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10].[H:11]>>[C:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.50608909377
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-3.4356861647500003
[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.06480304909
